US08106020B2
Then, Z-Glu(Val-Gly-OBzl)-OBzl (6.20 g, 10.03 mmol) was suspended in ethanol (200 ml), and 10% palladium/carbon (1.50 g) was added. A reduction reaction was performed at 55° C. for 5 hours under a hydrogen atmosphere. During the reaction, a total amount of 100 ml of water was gradually added. The catalyst was removed by filtration using a Kiriyama funnel, and the filtrate was concentrated under reduced pressure to a half volume. The reaction mixture was further filtered through a membrane filter, and the filtrate was concentrated under reduced pressure. The residue was dissolved in a small volume of water, and ethanol was added to deposit crystals, and the crystals were collected by filtration, and dried under reduced pressure to obtain a white powder of γ-Glu-Val-Gly (2.85 g, 9.40 mmol).

reactant | Z-Glu(Val-Gly-OBzl)-OBzl | 10.03 mmol, 6.20 g | N([C@@H](CCC(=O)N[C@@H](C(C)C)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C34H39N3O8
reactant | water | 100 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 1.50 g | [Pd] | Pd
product | γ-Glu-Val-Gly | 9.40 mmol, 2.85 g | N[C@@H](CCC(=O)N[C@@H](C(C)C)C(=O)NCC(=O)O)C(=O)O | C12H21N3O6
